US09227976B2
Step 1: Synthesis of N-[3-(trifluoromethyl)-1H-pyrazol-5-yl]acetamide
Acetyl chloride (7.7 ml, 108 mmol) was added over a period of 45 minutes to a solution of 3-(trifluoromethyl)-1H-pyrazol-5-amine (6.5 g, 43 mmol) and N-methylmorpholine (12.3 ml, 112 mmol) in CH2Cl2 (160 ml) with cooling in an ice bath. The reaction was allowed to warm to room temperature and stirred for 16 h, the solvent was removed in vacuo and the residue dissolved in methanol (150 ml). The solution was cooled in an ice bath and 25% aqueous NaOH (7.3 ml, 65 mmol) was added. After 3.25 h, 25% aqueous NaOH (0.5 ml, 4.4 mmol) was added and the reaction stirred for an additional 1.5 h. 2N HCl (20 ml) was added and the organic solvents were removed in vacuo at below 35° C. Water was added and the crude then extracted EtOAc (×2) and the extracts dried (MgSO4) and concentrated in vacuo. The resultant residue was suspended in CH2Cl2 (20 ml) with stirring. The solid was filtered and washed with CH2Cl2 (2×3 ml) and dried in vacuo to provide the title compound as a white solid (7.3 g) which was used in the subsequent step.

reactant | Acetyl chloride | 108 mmol, 7.7 ml | C(C)(=O)Cl | C2H3ClO
reactant | 3-(trifluoromethyl)-1H-pyrazol-5-amine | 43 mmol, 6.5 g | FC(C1=NNC(=C1)N)(F)F | C4H4F3N3
reactant | N-methylmorpholine | 112 mmol, 12.3 ml | CN1CCOCC1 | C5H11NO
reactant | NaOH | 65 mmol, 7.3 ml | [OH-].[Na+]
reactant | NaOH | 4.4 mmol, 0.5 ml | [OH-].[Na+]
reactant | HCl | 2N, 20 ml | Cl | ClH
solvent | CH2Cl2 | 160 ml | C(Cl)Cl | CH2Cl2
product | N-[3-(trifluoromethyl)-1H-pyrazol-5-yl]acetamide | 7.3 g | FC(C1=NNC(=C1)NC(C)=O)(F)F | C6H6F3N3O
